US08232294B2
Step 4) 4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine
To a solution of 4-(2-fluoro-4-nitrophenoxy)-6,7-dimethoxyquinoline (16.0 g, 0.046 mol) and NH4Cl (6.0 g, 0.11 mol) in EtOH/H2O (150 mL, v/v=4:1) was added iron powder (12.4 g, 0.22 mol) at rt. The reaction mixture was heated to reflux for 2 h, then cooled down to rt. Celite (10 g) was then added and stirring for 30 min. The mixture was filtered and the solid was washed with MeOH (20 mL×3) and DCM (20 mL×3). The filtrate was washed with 30 mL of saturated NaHCO3 aqueous. The aqueous phase was extracted with DCM (20 mL×3). The combined organic phases were washed with brine (20 mL×3), dried over Na2SO4, and concentrated in vacuo to give a yellow solid (0.9 g, 98%).

reactant | 4-(2-fluoro-4-nitrophenoxy)-6,7-dimethoxyquinoline | 0.046 mol, 16.0 g | FC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)[N+](=O)[O-] | C17H13FN2O5
reactant | NH4Cl | 0.11 mol, 6.0 g | [NH4+].[Cl-]
solvent | EtOH H2O | 150 mL | CCO.O
catalyst | iron | 0.22 mol, 12.4 g | [Fe] | Fe
product | 4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine | 0.9 g, 98% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)F | C17H15FN2O3
